US07244726B2
4-Methanesulfonyl-6-{4-[2-(2-methylquinazolin-5-yloxy)ethyl]piperazin-1-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine (E9)
The title compound was prepared from 4-methanesulfonyl-6-(piperazin-1-ylmethyl)-3,4-dihydro-2H-benzo[1,4]oxazine and 5-(2-(methanesulfonyloxy)ethoxy)-2-methylquinazoline following the method of Example 1.

reactant | 4-methanesulfonyl-6-(piperazin-1-ylmethyl)-3,4-dihydro-2H-benzo[1,4]oxazine | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)CN2CCNCC2 | C14H21N3O3S
reactant | 5-(2-(methanesulfonyloxy)ethoxy)-2-methylquinazoline | CS(=O)(=O)OCCOC1=C2C=NC(=NC2=CC=C1)C | C12H14N2O4S
product | 4-Methanesulfonyl-6-{4-[2-(2-methylquinazolin-5-yloxy)ethyl]piperazin-1-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)CN2CCN(CC2)CCOC2=C1C=NC(=NC1=CC=C2)C | C25H31N5O4S
